US04857644
1-(9H-Fluoren-2-ylsulfonyl)-4-(phenylmethyl)piperazine, hydrochloride
The title compound is prepared by adding to a stirred solution of the above sulfonyl chloride intermediate (4 g, 0.015 mol) in 50 mL of methylene chloride (2.7 g, 0.015 mol), 1-(benzyl)piperazine (2.7 g, 0.015 mol) and triethylamine (6 mL). The reactin mixture is stirred overnight and the methylene chloride layer is washed with water and dried over anhydrous Na2SO4. Evaporation of the methylene chloride under reduced pressure affords crude product which is purified by HPLC using silica gel column and ethyl acetate as the eluent. The desired fractions (Rf =0.8) are evaporated to give pure free base which is converted to the hydrochloride salt; m.p. 274°-275° C. (33% yield).

reactant | sulfonyl chloride | 0.015 mol, 4 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | methylene chloride | 0.015 mol, 50 mL, 2.7 g | C(Cl)Cl | CH2Cl2
reactant | 1-(benzyl)piperazine | 0.015 mol, 2.7 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | reactin | CN1CCC(=C2C3=CC=CC=C3C=CC4=CC=CC=C42)CC1 | C21H21N
solvent | triethylamine | 6 mL | C(C)N(CC)CC | C6H15N
product | 1-(9H-Fluoren-2-ylsulfonyl)-4-(phenylmethyl)piperazine, hydrochloride | 33% yield | Cl.C1=C(C=CC=2C3=CC=CC=C3CC12)S(=O)(=O)N1CCN(CC1)CC1=CC=CC=C1 | InChI=1S/C24H24N2O2S.ClH/c27-29(28,26-14-12-25(13-15-26)18-19-6-2-1-3-7-19)22-10-11-24-21(17-22)16-20-8-4-5-9-23(20)24;/h1-11,17H,12-16,18H2;1H
